2186-07-22 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2186-7-21**] 10:30 AM
 ARTERIAL LINE - STOP [**2186-7-21**] 12:30 PM
 BLOOD CULTURED - At [**2186-7-21**] 01:00 PM
 ARTERIAL LINE - START [**2186-7-21**] 01:00 PM
 TRANSTHORACIC ECHO - At [**2186-7-21**] 02:30 PM
 EKG - At [**2186-7-21**] 03:00 PM
 URINE CULTURE - At [**2186-7-21**] 05:00 PM
   - hct was 34, to 30, to 26, then in PM given 1 unit of RBCs, (note- had
   been given fluid throughout the day)
   - echo showed wall motion abnl, severe hypokinesis/akinesis of the
   anterior septum and anterior free wall, with extensive apical
   hypokinesis/akinesis; the inferior septum is also hypokinetic; RV free
   wall hypokinesis; EF of 30%, concern for demand ischemia from
   hypotesion per cardiology
   - given aspirin x 1 PR
   - BP low, required continued dopamine gtt
   - concern for [**Doctor Last Name 8302**]- TSH at 0.73, Cortisol AM- 66, PM- 18; however
   lots of urine output with concern for DI
   - urine lytes and osms sent
   - MRI of pituitary ordered for in morning (unable to run at night)
   - Dexamethasone stim test done
   - CE with mild elevation
   - head CT without acute pathology
   - BP improved and at 3AM dopa gtt was stopped
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2186-7-22**] 04:11 AM
   Metronidazole - [**2186-7-22**] 04:12 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-7-22**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.6
C (97.9
   HR: 78 (68 - 88) bpm
   BP: 102/61(75) {53/49(49) - 109/64(79)} mmHg
   RR: 18 (0 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 3 (3 - 3)mmHg
   Mixed Venous O2% Sat: 74 - 74
                              Total In:
                                                                  9,188 mL
                                                                  1,203 mL
   PO:
                              TF:
   IVF:
                                                                  8,403 mL
                                                                    863 mL
   Blood products:
                                                                    785 mL
                                                                    340 mL
   Total out:
                                                                  8,670 mL
                                                                  1,500 mL
   Urine:
                                                                  8,670 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    518 mL
                                                                   -297 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 407 (407 - 407) mL
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 6.8 L/min
   Physical Examination
   Extubaed, awake and alert
   CVrrr, no m
   CHEST cta b
   ABD- surgical site clean, tender
   Ext- no c/c/e
   Labs / Radiology
   92 K/uL
   10.7 g/dL
   159 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   6 mg/dL
   108 mEq/L
   137 mEq/L
   28.5 %
   6.2 K/uL
        [image002.jpg]
                             [**2186-7-21**]  03:17 AM
                             [**2186-7-21**]  03:21 AM
                             [**2186-7-21**]  05:24 AM
                             [**2186-7-21**]  05:25 AM
                             [**2186-7-21**]  08:07 AM
                             [**2186-7-21**]  12:08 PM
                             [**2186-7-21**]  03:04 PM
                             [**2186-7-21**]  06:09 PM
                             [**2186-7-21**]  09:30 PM
                             [**2186-7-22**]  04:28 AM
   WBC
   15.4
   13.6
   10.5
   8.5
   6.2
   Hct
   23.2
   33.0
   34.4
   30.8
   26.4
   28.5
   Plt
   158
   100
   104
   89
   92
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   TropT
   0.35
   0.37
   0.32
   TCO2
   20
   22
   Glucose
   143
   139
   143
   128
   159
   Other labs: PT / PTT / INR:11.9/32.5/1.0, CK / CKMB /
   Troponin-T:612/21/0.32, ALT / AST:23/57, Alk Phos / T Bili:30/0.4,
   Fibrinogen:191 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:237
   IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 .H/O SHOCK, OTHER
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SHOCK, CARDIOGENIC
   40yo G3P2 @ 20 wks gestation presenting with vaginal bleeding from
   placenta previa, transferred to the ICU for hypotension in the setting
   of significant blood loss requiring emergent hysterectomy.
   # Hypotension and Anemia:
   Most likely from severe hypovolemia in the setting of profuse vaginal
   bleeding and intraoperative blood loss.  Although her Hct was 34 on
   admission, her baseline is not known and is likely higher than that.
   Upon arrival in the ICU, her Hct is 23.  Would also consider the
   possibility of sepsis or infection, although time course does not seem
   suggestive and she has remained afebrile.  Her leukocytosis is most
   likely secondary to her bleed and multiple procedures.
   - Aggressive volume resuscitation with IV fluids and RBCs
   - goal CVP > 12, MAP > 60, Urine output > 30cc/hr
   - has 2 18 gauge PIVs; will place CVL
   - arterial line for BP monitoring
   - frequent Hct and INR checks
   - monitor coags and platelets with transfusions as she is likely to
   need FFP and platelets
   - wean dopamine gtt; transition to levophed if unable to wean off of
   dopamine
   - follow serial lactates
   # S/p D&E and TAH: done emergently given placenta previa c/b uterine
   atony and heavy bleeding.  Interesting to note that she had received
   heparin to prevent DVT prior to her flight, although unclear to what
   extent this may have contributed.
   - post-surgical wound care
   - pain control w fentanyl gtt
   - transition to PO pain regimen once stabilized
   - appreciate ob/gyn recs
   - Rhogam not indicated as pt is Rh positive
   # Mechanical ventilation:
   Patient remains intubated post procedure in the setting of her
   hemodynamic instability and need for aggressive volume resuscitation.
   - change to pressure support at 5/5 and monitor given no underlying
   parenchymal pathology
   - monitor serial ABGs
   - change sedation to versed and fentanyl for now
   - once she is volume resuscitated, would favor attempt to extubate
   today if respiratory status tolerates
   # Non-gap metabolic acidosis:
   Likely from normal saline volume resuscitation.
   - will use lactated ringers for now
   # FEN:  NPO pending likely extubation; aggressive lyte repletion
   (especially Mg and Ca) while receiving blood
   # Access:  18g PIV x 2, RIJ TLC, left arterial line
   # PPx:  subQ heparin; famotidine
   # Comm: husband [**Name (NI) 8269**] [**Name (NI) 8267**] ([**Telephone/Fax (3) 8270**])
   # Code: presumed FULL; will need ICU consent
   # Dispo: to OB/GYN floor once clinically stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-7-21**] 03:23 AM
   Multi Lumen - [**2186-7-21**] 04:51 AM
   Arterial Line - [**2186-7-21**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2186-07-22 07:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Emergency hysterectomy
   Extubated yesterday morning
   Cardiomyopathy
   shock
   polyuria
   24 Hour Events:
 BLOOD CULTURED - At [**2186-7-21**] 10:30 AM
 ARTERIAL LINE - STOP [**2186-7-21**] 12:30 PM
 TRANSTHORACIC ECHO - At [**2186-7-21**] 02:30 PM
 EKG - At [**2186-7-21**] 03:00 PM
 URINE CULTURE - At [**2186-7-21**] 05:00 PM
   Off of dopa this morning
   Transfused overnight for total PRBCs of 7 U
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2186-7-22**] 04:11 AM
   Metronidazole - [**2186-7-22**] 04:12 AM
   CTX
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-7-22**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.6
C (97.9
   HR: 78 (68 - 88) bpm
   BP: 102/61(75) {53/49(49) - 109/64(79)} mmHg
   RR: 18 (0 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 3 (3 - 3)mmHg
   Mixed Venous O2% Sat: 74 - 74
                             Total In:
                                                                  9,188 mL
                                                                  1,203 mL
   PO:
                             TF:
   IVF:
                                                                  8,403 mL
                                                                    863 mL
   Blood products:
                                                                    785 mL
                                                                    340 mL
   Total out:
                                                                  8,670 mL
                                                                  1,500 mL
   Urine:
                                                                  8,670 mL
                                                                  1,500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    518 mL
                                                                   -297 mL
   Respiratory support
   On NC
   Physical Examination
   Comfortable, no resp distress
   HEENT unremarkable
   Neck supple
   Hrt
 RRR
   Lungs clear
   Abd
 surgical wound intact
   Labs / Radiology
   10.7 g/dL
   92 K/uL
   159 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.6 mEq/L
   6 mg/dL
   108 mEq/L
   137 mEq/L
   28.5 %
   6.2 K/uL
        [image002.jpg]
                             [**2186-7-21**]  03:17 AM
                             [**2186-7-21**]  03:21 AM
                             [**2186-7-21**]  05:24 AM
                             [**2186-7-21**]  05:25 AM
                             [**2186-7-21**]  08:07 AM
                             [**2186-7-21**]  12:08 PM
                             [**2186-7-21**]  03:04 PM
                             [**2186-7-21**]  06:09 PM
                             [**2186-7-21**]  09:30 PM
                             [**2186-7-22**]  04:28 AM
   WBC
   15.4
   13.6
   10.5
   8.5
   6.2
   Hct
   23.2
   33.0
   34.4
   30.8
   26.4
   28.5
   Plt
   158
   100
   104
   89
   92
   Cr
   0.4
   0.3
   0.4
   0.4
   0.4
   TropT
   0.35
   0.37
   0.32
   TCO2
   20
   22
   Glucose
   143
   139
   143
   128
   159
   Other labs: PT / PTT / INR:11.9/32.5/1.0, CK / CKMB /
   Troponin-T:612/21/0.32, ALT / AST:23/57, Alk Phos / T Bili:30/0.4,
   Fibrinogen:191 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:237
   IU/L, Ca++:7.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   sOsm 267   uOsm 146
   Assessment and Plan
 SHOCK
 BP improved, follow closely, on dexamethasone 4 mg tid,
   continue for now, on abx
 will continue for now
   Cardiomyopathy
 unexplained, eventually repeat echo
   Polyuria
 working up pituitary issues though labs not consistent with
   DI, follow lytes
   Anemia
 Hct improved this morning, follow closely
   Post-op TAH
 pain meds as needed, ob/gyn following closely
   ICU Care
   Nutrition: start POs
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-7-21**] 03:23 AM
   Multi Lumen - [**2186-7-21**] 04:51 AM
   Arterial Line - [**2186-7-21**] 01:00 PM
   Prophylaxis:
   DVT:   boots
   Stress ulcer:   H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :   ICU
   Total time spent: 35